US07470723B2
4-Hydroxy-3-nitroiodobenzene (3.2 g, 12.0 mmol) was dissolved in acetone (30 mL). K2CO3 (1.8 g, 1.1 equiv) and Me2SO4 (1.23 mL, 1.1 equiv) were added to the solution. The mixture was stirred at 65° C. for 12 h. The reaction was then cooled, concentrated, and diluted with H2O (100 mL) and CHCl3 (100 mL). The mixture was shaken in a separatory funnel. The organic layer was dried (Na2SO4), filtered, and concentrated to afford 4-methoxy-3-nitroiodobenzene as a beige solid (3.3 g, 12.0 mmol, quant.): mp: 92-93° C. 1H NMR (300 M Hz, CDCl3) δ 8.13 (d, 1H, J=2.4 Hz), 7.81 (dd, 1H, J=8.7, 2.4 Hz), 6.86 (d, 1H, J=8.7 Hz), 3.95 (s, 3H).

reactant | 4-Hydroxy-3-nitroiodobenzene | 12.0 mmol, 3.2 g | OC1=C(C=C(C=C1)I)[N+](=O)[O-] | C6H4INO3
reactant | K2CO3 | 1.8 g, 1.1 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | Me2SO4 | 1.23 mL, 1.1 equiv | COS(=O)(=O)OC | C2H6O4S
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 4-methoxy-3-nitroiodobenzene | COC1=C(C=C(C=C1)I)[N+](=O)[O-] | C7H6INO3
